US09227978B2
1-(1-Acryloylazetidin-3-yl)-N-(4,5-dichloro-2-methoxybenzyl)piperidine-4-carboxamide
A mixture of tert-butyl 3-(4-(4,5-dichloro-2-methoxybenzylcarbamoyl)piperidin-1-yl)azetidine-1-carboxylate (210 mg, 0.44 mmol) in HCl/MeOH (10 mL, 2.86 M) was stirred at room temperature for 1 h. The mixture was concentrated in vacuo to yield the crude residue. The residue was dissolved in DCM (5 mL), triethylamine (0.5 mL) and acryloyl chloride (40 mg, 0.43 mmol) were added. The reaction mixture was stirred at room temperature for 30 min and then partitioned between DCM and water. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (dichloromethane/methanol=50:1) to afford the desired product (150 mg, 82% yield).

reactant | tert-butyl 3-(4-(4,5-dichloro-2-methoxybenzylcarbamoyl)piperidin-1-yl)azetidine-1-carboxylate | 0.44 mmol, 210 mg | ClC1=CC(=C(CNC(=O)C2CCN(CC2)C2CN(C2)C(=O)OC(C)(C)C)C=C1Cl)OC | C22H31Cl2N3O4
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.43 mmol, 40 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | HCl MeOH | 2.86 M, 10 mL | Cl.CO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(1-Acryloylazetidin-3-yl)-N-(4,5-dichloro-2-methoxybenzyl)piperidine-4-carboxamide | 150 mg, 82% yield | C(C=C)(=O)N1CC(C1)N1CCC(CC1)C(=O)NCC1=C(C=C(C(=C1)Cl)Cl)OC | C20H25Cl2N3O3
